US04503063
1-Carbamoyl-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol
3-(2,4-Dichlorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyrimidic acid, ethyl ester dihydrochloride (3.42 g) was suspended in 1,2-dichlorobenzene (35 ml) and the mixture was heated to the reflux temperature of the solvent (178° C.). After refluxing for five minutes, a solution was obtained. Refluxing was then continued for an additional 10 minutes. The reaction mixture was cooled, evaporated, and the resulting gum was triturated with hexane and heated with acetone. On cooling a cream colored granular solid was formed which was filtered to yield the title compound as a solvate (1.26 g). On standing overnight in a refrigerator some further solvated product precipitated (0.62 g). After drying at 80° C. for 6 hours to remove the solvent the pure (unsolvated) title compound was obtained, yield 1.5 g, m.p. 144°-145° C.

reactant | 3-(2,4-Dichlorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyrimidic acid, ethyl ester dihydrochloride | 3.42 g | Cl.Cl.ClC1=C(C=CC(=C1)Cl)C(CC(OCC)=N)(CN1N=CN=C1)O
solvent | 1,2-dichlorobenzene | 35 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-Carbamoyl-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | C(N)(=O)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C12H12Cl2N4O2
